2166-10-10 06:33:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: s/p ablation for ventricular arrhythmia
   24 Hour Events:
   -pt refusing quinidine o/n, EP fellow contact[**Name (NI) **] and recommended
   increasing metop to 50 [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-10-10**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 61 (61 - 80) bpm
   BP: 103/56(64) {99/39(55) - 116/64(73)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    180 mL
                                                                    240 mL
   PO:
                                                                    180 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    850 mL
                                                                    940 mL
   Urine:
                                                                    850 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   GENERAL: NAD. Alert and oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.
   NECK: Supple with JVP to mandible.
   CARDIAC: left sided ICD implant. RRR, distant S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Anterior breath sounds CTA b/l.
   ABDOMEN: Soft, NT, ND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   EXTREMITIES: No c/c/e. No pedal edema appreciated.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Labs / Radiology
   13.1 g/dL
   134 K/uL
   147 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   53 mg/dL
   101 mEq/L
   140 mEq/L
   38.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2166-10-10**]  04:11 AM
   WBC
   10.2
   Hct
   38.8
   Plt
   134
   Cr
   1.6
   Glucose
   147
   Other labs: PT / PTT / INR:15.2/28.1/1.3, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
   ASSESSMENT AND PLAN:
   81 yr old M with a PMH of CAD, three vessel disease s/p MI and CABG in
   [**2142**] and subsequent LAD stenting in [**2163**] complicated by ventricular
   aneurysms and tachycarrhythmias, chronic a. fib, systolic CHF with EF
   of 25% s/p single chamber ICD presents with electric shock-like pain in
   his chest. Patient had VT storm and required pressor support during
   ablation and has been admitted to CCU for further monitoring.
   .
   # Rhythm: Patient has [**Company **] teligen single chamber ICD.
   Past week patient had recurrent ICD firing. Admitted to EP/[**Hospital1 2259**] service
   for VT ablation today ([**10-9**]). Prior to procedure patient went into
   recurrent VT leading to multiple ICD shocks. He was loaded with
   intravenous lidocaine with partial success. During the procedure
   patient required neosinephrine and dopamine to support his blood
   pressure. Underlying rhythm is atrial fibrillation.
   - Increase Toprol XL to 75 mg qd
   - Initiate quinidine 324 mg TID
   - Magnet by bed-side in case repetitive firing, consider lidocaine
   - Resume heparin in today.
   - Re-start coumadin (for a fib)
   - Tele
   - Monitor closely overnight
   .
   # Systolic Heart Failure: ECHO this admission demonstrates EF 30%.
   Patient appears euvolemic on exam.
   - continue digoxin 0.125 mcg daily, lasix 80mg PO daily, eplerenone
   25mg PO daily, metoprolol.
   .
   # CAD:
   - MI complicated by ventricular aneurysm and tachyarrhythmias
   - three vessel CABG in [**2142**], and subsequent LAD stenting in [**2163**]
   - continue outpatient aspirin 81mg PO daily, losartan 50mg daily,
   simvastatin 40mg PO daily
   - follow daily EKG
   .
   # Chronic Atrial Fibrillation: Rate regular, well controlled.
   - beta blocker for rate control
   - re-started coumadin
   - re-start heparin bridge in am
   .
   # DMII: hold amaryl while inpatient
   - sliding scale
   .
   # chronic renal insufficiency: Creatinine 1.8. Improved from baseline
   of 2.
   - trend renal function daily
   .
   # HTN: blood pressures well controlled during admission
   - continue toprol XL 50mg daily
   .
   # Gout: continue allopurinol 100mg PO BID
   .
   # Hypothyroidism: cont levothyroxine 100mcg daily
   .
   FEN: Diabetic, heart healthy
   ACCESS: PIV's
   PROPHYLAXIS:
   -GI ppx with ranitidine.
   -DVT ppx with pneumoboots/heparin gtt
   -Pain management with tylenol.
   -Bowel regimen with senna/colace.
   -DC foley today
   CODE: full
   DISPO: CCU for now

2166-10-11 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: febrile, cultured
   BP low, so holding quinidine and bblocker with sbp hold parameter to
   hold for <100, per EP attending. when BP possible to give a med,
   bblocker is the priority med to give.
   some delay in urinating post foley removal...watching this and
   encouraging drinking in the meantime.
   24 Hour Events:
 URINE CULTURE - At [**2166-10-10**] 10:26 PM
   UA and culture sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-10-11**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 67 (60 - 69) bpm
   BP: 111/52(65) {83/34(48) - 122/67(80)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: V Paced
   Wgt (current): 103.6 kg (admission): 102 kg
             Total In:
                                                                  1,495 mL
                                                                    100 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    295 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    300 mL
   Urine:
                                                                  1,500 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -5 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: ////
   Physical Examination
   GENERAL: NAD. Alert and oriented x3.
   HEENT: NCAT. PERRL, EOMI. NECK: Supple with JVP to mandible.
   CARDIAC: left sided ICD implant. RRR, distant S1, S2. No m/r/gNo S3 or
   S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Anterior breath sounds CTA b/l.
   ABDOMEN: Soft, NT, ND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   EXTREMITIES: No c/c/e. No pedal edema appreciated.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES: Right: DP 2+ PT 2+, Left: DP 2+ PT 2+
   Labs / Radiology
   111 K/uL
   11.7 g/dL
   147 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   53 mg/dL
   101 mEq/L
   140 mEq/L
   34.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2166-10-10**]  04:11 AM
                             [**2166-10-11**]  05:14 AM
   WBC
   10.2
   9.1
   Hct
   38.8
   34.5
   Plt
   134
   111
   Cr
   1.6
   Glucose
   147
   Other labs: PT / PTT / INR:16.9/77.7/1.5, Ca++:9.0 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Microbiology: BCx [**10-10**] pnd
   UCx [**10-10**] pnd
   Assessment and Plan
   81 yr old M with a PMH of CAD, three vessel disease s/p MI and CABG in
   [**2142**] and subsequent LAD stenting in [**2163**] complicated by ventricular
   aneurysms and tachycarrhythmias, chronic a. fib, systolic CHF with EF
   of 25% s/p single chamber ICD presents with electric shock-like pain in
   his chest. Patient had VT storm and required pressor support during
   ablation and has been admitted to CCU for further monitoring.
   .
   # Rhythm: Patient has ICD s/p ablation for ventricular arrhythmia
   leading to multiple episodes of ICD triggering
   - Metoprolol 50 [**Hospital1 **]
   - Pt refusing quinidine
   - Magnet by bed-side in case repetitive firing, consider lidocaine
   - Resume heparin today.
   - Re-start coumadin (for a fib)
   - Tele
   .
   # Systolic Heart Failure: ECHO this admission demonstrates EF 30%.
   Patient appears euvolemic on exam.
   - continue digoxin 0.125 mcg daily, lasix 80mg PO daily, eplerenone
   25mg PO daily, metoprolol.
   .
   # CAD:  MI complicated by ventricular aneurysm and tachyarrhythmias.
   Three vessel CABG in [**2142**], and subsequent LAD stenting in [**2163**]
   - continue outpatient aspirin 81mg PO daily, losartan 50mg daily,
   simvastatin 40mg PO daily
   - follow daily EKG
   .
   # Chronic Atrial Fibrillation: Rate regular, well controlled except for
   several brief episodes of ventricular arrhythmia, 9 beat vtach o/n
   - beta blocker for rate control
   - re-started coumadin
   - re-start heparin bridge in am
   .
   # DMII: hold amaryl while inpatient
   - sliding scale  insulin
   .
   # chronic renal insufficiency: Creatinine 1.8. Improved from baseline
   of 2.
   - trend renal function daily
   .
   # HTN: blood pressures well controlled during admission
   - continue metoprolol.
   .
   # Gout: continue allopurinol 100mg PO BID
   .
   # Hypothyroidism: cont levothyroxine 100mcg daily
   ICU Care
   Nutrition: Diabetic, heart healthy
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-10-9**] 07:16 PM
   20 Gauge - [**2166-10-9**] 07:33 PM
   Prophylaxis:
   DVT: DVT ppx with pneumoboots/heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   -GI ppx with ranitidine.
   -Pain management with tylenol.
   -Bowel regimen with senna/colace.
   .
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU for now

2166-10-12 06:33:00 Physician Resident Progress Note
TITLE: [**Known lastname 10465**] ([**Numeric Identifier 10481**]) [**2166-10-12**] 07:00
   Chief Complaint: 81 yr old M with a PMH of CAD, three vessel disease
   s/p MI and CABG in [**2142**] [**Last Name (LF) 10482**], [**First Name3 (LF) 300**] of 25% s/p single chamber
   ICD presents with VT storm, s/p ablation.
   24 Hour Events:
   -pt denies CP/SOB o/n
   -febrile, cultured
   -BP low, so holding quinidine and bblocker with sbp hold parameter to
   hold for <100, per EP attending. when BP possible to give a med,
   bblocker is the priority med to give.
   -concern for decreased UOP, however pt voided in bed, therefore
   recorded outs are an undestimate.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-10-12**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.4
   HR: 66 (59 - 69) bpm
   BP: 103/49(61) {82/39(48) - 127/89(93)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 91%
   Heart rhythm: V Paced
   Wgt (current): 103.6 kg (admission): 102 kg
             Total In:
                                                                  1,035 mL
                                                                    325 mL
   PO:
                                                                    720 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    315 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    150 mL
   Urine:
                                                                    850 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    185 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///26/
   Physical Examination
   GENERAL: Alert, interactive, NAD.
   NECK: Supple no JVD appreciated.
   CARDIAC: left sided ICD implant. RRR, distant S1, S2. No m/r/g.
   LUNGS: CTAB.
   GU: condom cath in place
   ABDOMEN: Soft, NT, ND.
   EXTREMITIES: No c/c. Trace pedal edema b/l.
   Labs / Radiology
   114 K/uL
   11.6 g/dL
   120 mg/dL
   2.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   77 mg/dL
   98 mEq/L
   134 mEq/L
   34.4 %
   11.7 K/uL
                             [**2166-10-10**]  04:11 AM
                             [**2166-10-11**]  05:14 AM
                             [**2166-10-12**]  04:38 AM
   WBC
   10.2
   9.1
   11.7
   Hct
   38.8
   34.5
   34.4
   Plt
   134
   111
   114
   Cr
   1.6
   2.1
   2.7
   Glucose
   147
   126
   120
   Other labs: PT / PTT / INR:17.3/58.4/1.5, Ca++:9.0 mg/dL, Mg++:2.3
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   81 yr old M with a PMH of CAD, three vessel disease s/p MI and CABG in
   [**2142**] and subsequent LAD stenting in [**2163**] complicated by ventricular
   aneurysms and [**Year (4 digits) 10482**], chronic a. fib, systolic CHF with EF
   of 25% s/p single chamber ICD presents with electric shock-like pain in
   his chest. Patient had VT storm and required pressor support during
   ablation and has been admitted to CCU for further monitoring.
   .
   # Rhythm: Patient has ICD s/p ablation for ventricular arrhythmia
   leading to multiple episodes of ICD triggering.  No
   - Metoprolol 50 [**Hospital1 **]
   - Quinidine held for low BPs
   - Magnet by bed-side in case repetitive firing, consider lidocaine
   - Continue heparin gtt until therapeutic on Coumadin, goal PTT 60-80.
   - Continue coumadin (for a fib), goal INR [**2-11**].
   - Tele
   .
   # Systolic Heart Failure: EF 30%. Patient appears euvolemic on exam.
   - Continue digoxin 0.125 mcg daily, lasix 80mg PO daily, eplerenone
   25mg PO daily, metoprolol.
   .
   # CAD:  MI complicated by ventricular aneurysm and tachyarrhythmias.
   Three vessel CABG in [**2142**], and subsequent LAD stenting in [**2163**].
   Currently stable without evidence of ischemia.
   - Continue outpatient aspirin 81mg PO daily, losartan 50mg daily,
   simvastatin 40mg PO daily
   .
   # Chronic Atrial Fibrillation: Rate regular, no episodes of V tachy o/n
   - Beta blocker for rate control
   - Coumadin with INR [**2-11**]
   - Heparin bridge until INR therapeutic with PTT goal 60-80
   .
   # Fevers:  Patient with low grade fevers, no other clinical evidence of
   infection.
   - f/u UCx, BCx, CXR
   - follow WBC
   .
   # DMII: hold Amaryl while inpatient.  Sugars well controlled on current
   ISS.
   - sliding scale  insulin
   .
   # Chronic renal insufficiency: Worsening creatinine to 2.7 today, with
   decreased creatinine clearance.  UOP appears stable but somewhat
   unclear given that his output has been poorly measured recently.
   -urine lytes today
   -follow UOP
   -renally dose meds
   -hold [**Last Name (un) 239**]
   .
   # HTN: blood pressures well controlled during admission, with some lows
   recently.
   - Continue metoprolol with holding parameters.
   - Hold [**Last Name (un) 239**] and lasix for now.
   .
   # Gout: Holding allopurinol given renal toxicity.
   .
   # Hypothyroidism: Cont Levothyroxine 100mcg daily
   ICU Care
   Nutrition: Diabetic, heart healthy
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-10-9**] 07:16 PM
   20 Gauge - [**2166-10-9**] 07:33 PM
   Prophylaxis:
   DVT: DVT ppx with heparin/coumadin
   Stress ulcer: ranitidine
   VAP:  na
   Comments:
   .
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU for now

2166-10-13 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt in sinus rhythm, EP with plans to reset v-pacing to lower rate to
   allow pt's underlying sinus rhythm to pace.
   Pt with urinary retention (400 cc by bladder scan); Foley placed with
   good UOP, urine lytes suggest pre-renal etiology.
   No chest pain, no chest pressure, no abdominal pain, no SOB.
   A&O x3 but appears confused.
   Mild discomfort w/urination.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2166-10-12**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2166-10-12**] 08:00 AM
   Coumadin (Warfarin) - [**2166-10-12**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-10-13**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 63 (58 - 76) bpm
   BP: 110/36(55) {77/35(45) - 123/64(73)} mmHg
   RR: 28 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 104 kg (admission): 102 kg
             Total In:
                                                                  1,519 mL
                                                                    356 mL
   PO:
                                                                  1,110 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    409 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    870 mL
   Urine:
                                                                  1,235 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                   -514 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, CPAP mask
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   GEN: NAD
   CV: RRR, no m/r/g
   PULM: Inspiratory & expiratory wheeze b/l.
   ABD: soft, NT, ND
   Labs / Radiology
   117 K/uL
   11.1 g/dL
   123 mg/dL
   2.6 mg/dL
   23 mEq/L
   4.2 mEq/L
   84 mg/dL
   102 mEq/L
   135 mEq/L
   32.5 %
   10.7 K/uL
        [image002.jpg]
                             [**2166-10-10**]  04:11 AM
                             [**2166-10-11**]  05:14 AM
                             [**2166-10-12**]  04:38 AM
                             [**2166-10-13**]  03:09 AM
   WBC
   10.2
   9.1
   11.7
   10.7
   Hct
   38.8
   34.5
   34.4
   32.5
   Plt
   134
   111
   114
   117
   Cr
   1.6
   2.1
   2.7
   2.6
   Glucose
   147
   126
   120
   123
   Other labs: PT / PTT / INR:17.2/74.6/1.5, Ca++:8.5 mg/dL, Mg++:2.4
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   81 yr old M with a PMH of CAD, three vessel disease s/p MI and CABG in
   [**2142**] and subsequent LAD stenting in [**2163**] complicated by ventricular
   aneurysms and tachycarrhythmias, chronic a. fib, systolic CHF with EF
   of 25% s/p single chamber ICD presents with electric shock-like pain in
   his chest. Patient had VT storm and required pressor support during
   ablation and has been admitted to CCU for further monitoring.
   .
   # Rhythm: Patient has ICD s/p ablation for ventricular arrhythmia
   leading to multiple episodes of ICD triggering. No further firings or
   ventricular arrhythmias noted.
   - Metoprolol 25 [**Hospital1 **]
   - Quinidine held d/t renal failure
   - Magnet by bed-side in case repetitive firing, consider lidocaine
   - Continue heparin gtt until therapeutic on Coumadin, goal PTT 60-80.
   - Continue coumadin (for afib), goal INR [**2-11**] (1.5 today)
   - Telemetry
   - PFT
s so can consider use of Amiodarone as treatment in future
   .
   # Systolic Heart Failure: EF 30%. Patient appears euvolemic on exam.
   - Continue digoxin 0.125 mcg daily, eplerenone 25mg PO daily (an
   aldosterone antagonist), metoprolol 25 [**Hospital1 **].
   .
   # CAD:  MI complicated by ventricular aneurysm and tachyarrhythmias.
   Three vessel CABG in [**2142**], and subsequent LAD stenting in [**2163**].
   Currently stable without evidence of ischemia.
   - Continue outpatient aspirin 81mg PO daily, simvastatin 40mg PO daily
   .
   # Chronic Atrial Fibrillation: Rate regular, no episodes of V tach o/n.
   - Beta blocker for rate control
   - Coumadin with INR [**2-11**] goal (1.5 today)
   - Heparin bridge until INR therapeutic with PTT goal 60-80
   .
   # Fevers:  Patient with low grade fevers (up to 100.6 over past 24
   hours); patient with e.coli UTI.
   - f/u UCx, BCx, CXR for other infectious source
   - follow WBC
   .
   # Wheezes on exam
 pneumonia versus COPD versus cardiac wheeze:
   -f/u CXR, follow WBC
   -ipratropium and albuterol nebs prn wheeze/sob
   .
   # DMII: hold Amaryl while inpatient.  Sugars well controlled on current
   ISS.
   - sliding scale insulin
   - diabetic diet
   .
   # Chronic renal insufficiency: Creatinine approximately stable today at
   2.6 (was at peak of 2.7 yesterday). UOP appears to be picking up. Urine
   lytes suggest pre-renal etiology; try to have patient positive
   250-500cc again today (confirm this with EF team). Patient being
   treated for e.coli UTI, on ceftriaxone (day 1= [**10-12**]).
   -continue ceftriaxone
   -follow UOP, trend Cr
   -goal 250-500cc positive I
s & O
s today (confirm with EP team)
   -renally dose meds
   -hold [**Last Name (un) 239**], hold lasix
   .
   # HTN: blood pressures well controlled during admission, with some lows
   recently.
   - Continue metoprolol with holding parameters.
   - Hold [**Last Name (un) 239**] and lasix for now
   .
   # Gout: Holding allopurinol given renal toxicity.
   .
   # PT consult
   .
   # Hypothyroidism: Cont Levothyroxine 100mcg daily
   ICU Care
   Nutrition: diabetic, heart healthy
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-10-9**] 07:16 PM
   20 Gauge - [**2166-10-9**] 07:33 PM
   Prophylaxis:
   DVT: IV heparin & coumadin
   Stress ulcer: ranitidine
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: CCU

2166-10-14 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2166-10-13**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2166-10-13**] 09:08 AM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-10-14**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 81 (60 - 81) bpm
   BP: 102/55(66) {90/42(58) - 130/59(74)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Wgt (current): 104.5 kg (admission): 102 kg
             Total In:
                                                                  1,636 mL
                                                                    119 mL
   PO:
                                                                    960 mL
             TF:
   IVF:
                                                                    676 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    630 mL
   Urine:
                                                                  2,590 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -954 mL
                                                                   -511 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: NAD
   CV: RRR, no m/r/g
   PULM: Inspiratory & expiratory wheeze b/l.
   ABD: soft, NT, ND
   Labs / Radiology
   141 K/uL
   11.2 g/dL
   137 mg/dL
   1.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   66 mg/dL
   103 mEq/L
   137 mEq/L
   33.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2166-10-10**]  04:11 AM
                             [**2166-10-11**]  05:14 AM
                             [**2166-10-12**]  04:38 AM
                             [**2166-10-13**]  03:09 AM
                             [**2166-10-13**]  08:00 AM
                             [**2166-10-13**]  12:00 PM
                             [**2166-10-13**]  05:00 PM
                             [**2166-10-13**]  05:29 PM
                             [**2166-10-14**]  04:01 AM
   WBC
   10.2
   9.1
   11.7
   10.7
   9.4
   Hct
   38.8
   34.5
   34.4
   32.5
   33.9
   Plt
   134
   111
   114
   117
   141
   Cr
   1.6
   2.1
   2.7
   2.6
   2.1
   1.9
   Glucose
   147
   126
   120
   123
   120
   178
   137
   137
   Other labs: PT / PTT / INR:16.5/57.9/1.5, Ca++:8.6 mg/dL, Mg++:2.4
   mg/dL, PO4:2.8 mg/dL
   Microbiology: URINE CULTURE (Final [**2166-10-13**]):
         ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML..
   PRESUMPTIVE IDENTIFICATION.  Sensitive to Cipro, Bactrim from [**10-10**].
   Assessment and Plan
   81 yr old M with a PMH of CAD, three vessel disease s/p MI and CABG in
   [**2142**] and subsequent LAD stenting in [**2163**] complicated by ventricular
   aneurysms and tachycarrhythmias, chronic a. fib, systolic CHF with EF
   of 25% s/p single chamber ICD presents with electric shock-like pain in
   his chest. Patient had VT storm and required pressor support during
   ablation and has been admitted to CCU for further monitoring.
   .
   # Rhythm: Patient has ICD s/p ablation for ventricular arrhythmia
   leading to multiple episodes of ICD triggering. No further firings or
   ventricular arrhythmias noted.
   - Metoprolol 25 [**Hospital1 **]
   - Quinidine held d/t renal failure
   - Magnet by bed-side in case repetitive firing, consider lidocaine
   - Continue heparin gtt until therapeutic on Coumadin, goal PTT 60-80.
   - Continue coumadin (for afib), goal INR [**2-11**] (1.5 today)
   - Telemetry
   - PFT
s so can consider use of Amiodarone as treatment in future
   .
   # Systolic Heart Failure: EF 30%. Patient appears euvolemic on exam.
   - Continue digoxin 0.125 mcg daily, eplerenone 25mg PO daily (an
   aldosterone antagonist), metoprolol 25 [**Hospital1 **].
   .
   # CAD:  MI complicated by ventricular aneurysm and tachyarrhythmias.
   Three vessel CABG in [**2142**], and subsequent LAD stenting in [**2163**].
   Currently stable without evidence of ischemia.
   - Continue outpatient aspirin 81mg PO daily, simvastatin 40mg PO daily
   .
   # Chronic Atrial Fibrillation: Rate regular, no episodes of V tach o/n.
   - Beta blocker for rate control
   - Coumadin with INR [**2-11**] goal (1.5 today)
   - Heparin bridge until INR therapeutic with PTT goal 60-80
   .
   # Fevers:  Patient with low grade fevers (up to 100.6 over past 24
   hours); patient with e.coli UTI.
   - f/u UCx, BCx, CXR for other infectious source
   - follow WBC
   .
   # Wheezes on exam
 pneumonia versus COPD versus cardiac wheeze:
   -f/u CXR, follow WBC
   -ipratropium and albuterol nebs prn wheeze/sob
   .
   # DMII: hold Amaryl while inpatient.  Sugars well controlled on current
   ISS.
   - sliding scale insulin
   - diabetic diet
   .
   # Chronic renal insufficiency: Creatinine approximately stable today at
   2.6 (was at peak of 2.7 yesterday). UOP appears to be picking up. Urine
   lytes suggest pre-renal etiology; try to have patient positive
   250-500cc again today (confirm this with EF team). Patient being
   treated for e.coli UTI, on ceftriaxone (day 1= [**10-12**]).
   -continue ceftriaxone
   -follow UOP, trend Cr
   -goal 250-500cc positive I
s & O
s today (confirm with EP team)
   -renally dose meds
   -hold [**Last Name (un) 239**], hold lasix
   .
   # HTN: blood pressures well controlled during admission, with some lows
   recently.
   - Continue metoprolol with holding parameters.
   - Hold [**Last Name (un) 239**] and lasix for now
   .
   # Gout: Holding allopurinol given renal toxicity.
   .
   # PT consult
   .
   # Hypothyroidism: Cont Levothyroxine 100mcg daily
   ICU Care
   Nutrition: diabetic, heart healthy
   Glycemic Control:
   Lines:
   16 Gauge - [**2166-10-9**] 07:16 PM
   20 Gauge - [**2166-10-9**] 07:33 PM
   Prophylaxis:
   DVT: IV heparin & coumadin
   Stress ulcer: ranitidine
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: CCU